US08309580B2
(4) cyclohexyl[5-(4-fluorophenyl)-2-methyl-3-furyl]methanol
An operation similar to that in Example 3 (2) was performed using 5-(4-fluorophenyl)-2-methyl-3-furaldehyde (2.0 g) and 1N cyclohexylmagnesium bromide-tetrahydrofuran solution (15 mL) to give the title compound (2.4 g, 83%) as a white crystal.

reactant | 5-(4-fluorophenyl)-2-methyl-3-furaldehyde | 2.0 g | FC1=CC=C(C=C1)C1=CC(=C(O1)C)C=O | C12H9FO2
reactant | cyclohexylmagnesium bromide tetrahydrofuran | 1N, 15 mL | C1(CCCCC1)[Mg]Br.O1CCCC1
product | cyclohexyl[5-(4-fluorophenyl)-2-methyl-3-furyl]methanol | 2.4 g, 83% | C1(CCCCC1)C(O)C1=C(OC(=C1)C1=CC=C(C=C1)F)C | C18H21FO2
